US07799775B2
In 30 ml of tetrahydrofuran, 10.0 g of 2-[5-(4-quinolin-2-ylpiperazin-1-yl)-pentanoylamino]cyclohex-1-enecarboxylic acid as synthesized in above Step 7-1-E was suspended, and to the suspension, 7.0 g of 3 equivalent of acetic anhydride was added, followed by an hour's heating under reflux. The solution was cooled with ice, and while continuing the cooling, 35.6 ml of excessive 40% methylamine-methanol solution was gradually added. After about 10 minutes' refluxing under stirring, the temperature was cooled to room temperature and the solution was concentrated under reduced pressure. After addition of 80 ml of distilled water and 30 minutes' stirring, precipitated crystals were recovered by filtration and dried to provide 8.83 g (89.3%) of 3-methyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one.

reactant | 2-[5-(4-quinolin-2-ylpiperazin-1-yl)-pentanoylamino]cyclohex-1-enecarboxylic acid | 10.0 g | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCCC(=O)NC1=C(CCCC1)C(=O)O | C25H32N4O3
reactant | acetic anhydride | 7.0 g, 3 equivalent | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylamine methanol | CN.CO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-methyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 8.83 g, 89.3% | CN1C(=NC=2CCCCC2C1=O)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C26H33N5O
